US05159070
576.5 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid were added at 0° C. to a solution of 247.8 g of tosyl chloride in 780 m. of dimethylformamide and then 196 ml of triethylamine were added thereto. The mixture was held at 0° C. while adding thereto a solution of 272 g of 7-amino-cephalosporanic acid in 3 liters of ethylene chloride and 450.7 ml of triethylamine cooled to -70° to -75° C. and the mixture was held at -20° C. for 30 minutes. Then 270 ml of acetic acid followed by 540 ml of demineralized water were added thereto and the temperature rose to -15° to -20° C. 11 liters of demineralized water were added thereto and the pH was adjusted to 1 to 1.2 by addition of 0.1N hydrochloric acid. The decanted organic phase was washed 3 times with 2700 ml of demineralized water and was concentrated under reduced pressure in a bath at 8° to 30° C. to a volume of 1350 ml to obtain a solution of syn isomer of 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC | C25H21N3O3S
reactant | tosyl chloride | 247.8 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 7-amino-cephalosporanic acid | 272 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | hydrochloric acid | 0.1N | Cl | ClH
solvent | ethylene chloride | 3 liters | C(CCl)Cl | C2H4Cl2
solvent | triethylamine | 450.7 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 196 ml | C(C)N(CC)CC | C6H15N
solvent | water | 11 liters | O | H2O
solvent | water | 540 ml | O | H2O
solvent | acetic acid | 270 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-acetoxymethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-methoxyimino-acetamido]-ceph-3-eme-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C35H31N5O7S2
